US06949542B2
7-(Methyl-propyl-amino)-4-(3-pyrimidin-5-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {5-(methyl-propyl-amino)-2-[3-oxo-3-(3-pyrimidin-5-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (Example M90) (0.40 g, 0.70 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light orange solid (210 mg, 66%).

reactant | {5-(methyl-propyl-amino)-2-[3-oxo-3-(3-pyrimidin-5-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 0.70 mmol, 0.40 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(CCC)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C=1C=NC=NC1)=O)=O)=O | C29H32F3N5O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-(Methyl-propyl-amino)-4-(3-pyrimidin-5-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC=NC2)=O)C=C1C(F)(F)F)CCC | C24H22F3N5O
